US03987199
A solution of 15 g. of 4-amino-3,5-dibromobenzenesulfonamide in 45 ml. of chlorosulfonic acid is heated on a steam bath at 95° C. for two hours. The reaction mixture is cooled and poured onto 400 ml. of ice/water mixture. The resultant precipitate is filtered, dissolved in methylene chloride, and the methylene chloride solution is dried, filtered and evaporated to dryness, affording 4-amino-3,5-dibromobenzenesulfonylchloride, m.p. 153°-155° C.

reactant | 4-amino-3,5-dibromobenzenesulfonamide | NC1=C(C=C(C=C1Br)S(=O)(=O)N)Br | C6H6Br2N2O2S
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | 4-amino-3,5-dibromobenzenesulfonylchloride | NC1=C(C=C(C=C1Br)S(=O)(=O)Cl)Br | C6H4Br2ClNO2S
